US07557213B2
Preparation of 3-(3-Fluoro-4-methoxy-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 120 mg (0.36 mmol) of 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 2 mL THF and 1.6 mL 0.5M 3-fluoro-4-methoxyphenylmagnesium bromide. Yield: 95 mg of a white solid. LC-MSD, m/z for C24H19FN2O3 [M+H]+=403.1; HPLC retention time: 1.9 min.

reactant | 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.36 mmol, 120 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C)C | C19H19N3O3
reactant | 3-fluoro-4-methoxyphenylmagnesium bromide | 0.5M, 1.6 mL | FC=1C=C(C=CC1OC)[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(3-Fluoro-4-methoxy-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | FC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)C)C=CC1OC | C24H19FN2O3
